US05719319
674.5 g (2.43 moles) of 40% by weight aqueous sodium sarcosinate solution were taken and a pH value of 8.5 adjusted at 70° C. with 99% by weight acetic acid. After the addition of 500 ml methanol, 491.1 g (2.92 moles) of a 25% by weight aqueous cyanamide solution were added thereto with vigorous stirring at reflux temperature in the course of 2 hours. After ending of the addition of the cyanamide solution, the reaction mixture was further stirred for 2 hours under reflux while stirring. After cooling to 15° C., the crystalline precipitate was filtered off with suction, washed twice with, in each case, 250 ml of water and subsequently recrystallised from water. After drying in a vacuum drying cabinet at 80° C. and 15 mbar pressure, there were obtained 176.7 g (48.8% by weight) of anhydrous creatine.

reactant | sodium sarcosinate | N(C)CC(=O)[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | cyanamide | N#CN | CH2N2
solvent | methanol | 500 ml | CO | CH4O
product | creatine | 176.7 g | O=C(O)CN(C)C(N)=N | C4H9N3O2
